US04178293
To valine (11.7 g, 0.10 mol) in 88% formic acid (40 ml) is added acetic formylanhydride (26.3 g, 0.30 mol) over 0.5 hr at 5°. The reaction mixture is warmed to 24° and stirred for 17 hours. The reaction is worked up by distilling off (bath temp. 45°-50°) the solvent, excess anhydride and acetic acid, to give, as a white solid, N-formylvaline, recrystallized from hot ethanol, m.p. 143°-145°.

reactant | valine | 0.10 mol, 11.7 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | formic acid | 40 ml | C(=O)O | CH2O2
product | N-formylvaline | C(=O)N[C@@H](C(C)C)C(=O)O | C6H11NO3
